US08022076B2
Hydrogen chloride gas was bubbled through a stirred reaction mixture of 2-amino-4-phenylthiophene-3-carboxylic acid ethyl ester (4.94 g, 0.02 mol) in ethyl cyanoacetate (50 ml) for 2 hours. A thick suspension formed initially which slowly dissolved on gentle warming. The mixture was allowed to stand at ambient temperature for 18 hours. Excess hydrogen chloride was removed by bubbling nitrogen through the reaction mixture and most of the excess ethyl cyanoacetate was distilled out at reduced pressure. The solid residue was recrystallised from ethanol to give (4-oxo-5-phenyl-3,4-dihydrothieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester (3.64 g), which was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-amino-4-phenylthiophene-3-carboxylic acid ethyl ester | 0.02 mol, 4.94 g | C(C)OC(=O)C1=C(SC=C1C1=CC=CC=C1)N | C13H13NO2S
reactant | ethyl cyanoacetate | 50 ml | C(#N)CC(=O)OCC | C5H7NO2
product | (4-oxo-5-phenyl-3,4-dihydrothieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester | 3.64 g | C(C)OC(CC=1NC(C2=C(N1)SC=C2C2=CC=CC=C2)=O)=O | C16H14N2O3S
